US07838675B2
iii) N-[2-[[(2,3-difluorophenyl)methyl]thio]-6-[1-[(4S)-2,2-dimethyl-1,3-dioxolan-4-yl]-1-methylethoxy]-4-pyrimidinyl]-1-azetidinesulfonamide
The subtitle compound was prepared according to the procedure outlined in example 1 step iv) using a mixture of azetidine-1-sulfonamide (prepared according to patent WO 2004/011443, 0.17 g), tris(dibenzylideneacetone)dipalladium (0) (78 mg), 2-dicyclohexylphosphino-2′,4′,6′-tri-isopropyl-1,1′-biphenyl (XPHOS) (40 mg), cesium carbonate (0.42 g) and 4-chloro-2-[[(2,3-difluorophenyl)methyl]thio]-6-[1-[(4S)-2,2-dimethyl-1,3-dioxolan-4-yl]-1-methylethoxy]-pyrimidine (0.37 g) in dioxane (8 mL). Purification was by column chromatography on silica gel using EtOAc/isohexane (2:8 to 3:7 gradient) as eluent to give the subtitle compound as a pale yellow oil. Yield: 0.37 g

reactant | azetidine-1-sulfonamide | 0.17 g | N1(CCC1)S(=O)(=O)N | C3H8N2O2S
reactant | 2-dicyclohexylphosphino-2′,4′,6′-tri-isopropyl-1,1′-biphenyl | 40 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
reactant | cesium carbonate | 0.42 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-chloro-2-[[(2,3-difluorophenyl)methyl]thio]-6-[1-[(4S)-2,2-dimethyl-1,3-dioxolan-4-yl]-1-methylethoxy]-pyrimidine | 0.37 g | ClC1=NC(=NC(=C1)OC(C)(C)[C@H]1OC(OC1)(C)C)SCC1=C(C(=CC=C1)F)F | C19H21ClF2N2O3S
solvent | dioxane | 8 mL | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium | 78 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-[2-[[(2,3-difluorophenyl)methyl]thio]-6-[1-[(4S)-2,2-dimethyl-1,3-dioxolan-4-yl]-1-methylethoxy]-4-pyrimidinyl]-1-azetidinesulfonamide | FC1=C(C=CC=C1F)CSC1=NC(=CC(=N1)NS(=O)(=O)N1CCC1)OC(C)(C)[C@H]1OC(OC1)(C)C | C22H28F2N4O5S2
